US05516806
b) 3-(N-BOC-aminomethyl)-cyclobutanol
A solution of 59.2 g (0.2712 mol) of di-tert-butyldicarbonate in 100 ml of tetrahydrofuran is added dropwise to a suspension of 24.94 g (0.2466 mol) of 3-aminomethyl-cyclobutanol in 180 ml of tetrahydrofuran in the course of 1 hour. 80 ml of water are then added to the reaction mixture, stirring is continued at room temperature for a further 16 hours and the mixture is evaporated in vacuo. The title compound, obtained as a crystalline residue, melts at 96-°99° C.

reactant | di-tert-butyldicarbonate | 0.2712 mol, 59.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-aminomethyl-cyclobutanol | 0.2466 mol, 24.94 g | NCC1CC(C1)O | C5H11NO
reactant | water | 80 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 3-(N-BOC-aminomethyl)-cyclobutanol | C(=O)(OC(C)(C)C)NCC1CC(C1)O | C10H19NO3
